US07157448B2
6-Chloroguanine derivative prepared in Preparation 6 (4.86 g) was dissolved in 85 ml of methanol and 1.4 g of triethylamine and 2.9 g of 4-methoxythiocresol were added. The reaction mixture was reacted under reflux condition for 24 hours. The reaction was stopped by adding 20 ml of water, and the methanol was removed by distillation under reduced pressure. The reaction mixture was extracted with dichloromethane and purified by silica gel column to give a compound wherein 6-position of guanine was substituted by 4-methoxyphenylthio group.

reactant | 6-Chloroguanine | C=1NC2=C(N1)C(=NC(=N2)N)Cl | C5H4ClN5
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxythiocresol | 2.9 g | COC=1C=C(C(=CC1)S)C | C8H10OS
reactant | water | 20 ml | O | H2O
solvent | methanol | 85 ml | CO | CH4O
product | guanine | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
